US08202873B2
3-(1,3,5-Trimethyl-1H-pyrazol-4-yl)-propionaldehyde
Dissolve 3-(1,3,5-trimethyl-1H-pyrazol-4-yl)-propionic acid ethyl ester (1.94 g, 9.23 mmol) in tetrahydrofuran (78 mL). Cool to −78° C. in a dry ice/acetone bath and treat dropwise with 1 M diisobutylaluminum hydride in toluene (10.15 mL). Stir reaction mixture at −78° C. for one hr. and add 1 M diisobutylaluminum hydride in toluene (10.15 mL). Stir reaction mixture at −78° C. for one hr. and add 1 M diisobutylaluminum hydride in toluene (10.15 mL). Stir reaction mixture at −78° C. for 1 hr. and add 1 M diisobutylaluminum hydride in toluene (10.15 mL). Stir reaction mixture at −78° C. for 1 hr. and quench with aqueous saturated potassium sodium tartrate tetrahydrate solution. Add ethyl acetate (150 mL), and stir for 3 hr. at room temperature. Separate organic layer, extract aqueous layer 3 times with ethyl acetate, dry (magnesium sulfate), filter, concentrate and purify (silica gel chromatography, eluting with 1:1 to 100% ethyl acetate:hexanes), to give the title preparation (760 mg, 51%). GC-MS m/z=166 [M+].

reactant | 3-(1,3,5-trimethyl-1H-pyrazol-4-yl)-propionic acid ethyl ester | 9.23 mmol, 1.94 g | C(C)OC(CCC=1C(=NN(C1C)C)C)=O | C11H18N2O2
reactant | diisobutylaluminum hydride | 1 M | [H-].C(C(C)C)[Al+]CC(C)C
reactant | diisobutylaluminum hydride | 1 M | [H-].C(C(C)C)[Al+]CC(C)C
reactant | diisobutylaluminum hydride | 1 M | [H-].C(C(C)C)[Al+]CC(C)C
reactant | diisobutylaluminum hydride | 1 M | [H-].C(C(C)C)[Al+]CC(C)C
solvent | tetrahydrofuran | 78 mL | O1CCCC1 | C4H8O
solvent | toluene | 10.15 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10.15 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10.15 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10.15 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(1,3,5-Trimethyl-1H-pyrazol-4-yl)-propionaldehyde | CN1N=C(C(=C1C)CCC=O)C | C9H14N2O
